US06340679B1
(b) (2S)-2-Benzenesulfonylamino-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-propionic acid tert-butyl ester
88 mg of 4-[4-((2S)-2-benzenesulfonylamino-2-tert-butoxycarbonyl-ethyl)-phenoxy]-butyric acid were dissolved in tetrahydrofuran and 22.6 mg of 1,4,5,6-tetrahydropyrimidin-2-ylamine, 123 mg of diisopropylethylamine and 79.4 mg of HATU were added. The reaction mixture was stirred overnight, and the solvent was removed in vacuo. The residue was dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The organic phase was dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was chromatographed on reversed-phase (C-1 8) silica gel eluting with a gradient of 10-90% acetonitrile in water. Yield 40.1 mg. MS (FAB+): m/e=545.3 (M+H)+.

reactant | 4-[4-((2S)-2-benzenesulfonylamino-2-tert-butoxycarbonyl-ethyl)-phenoxy]-butyric acid | 88 mg | C1(=CC=CC=C1)S(=O)(=O)N[C@@H](CC1=CC=C(OCCCC(=O)O)C=C1)C(=O)OC(C)(C)C | C23H29NO7S
reactant | diisopropylethylamine | 123 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 79.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | 1,4,5,6-tetrahydropyrimidin-2-ylamine | 22.6 mg | N1C(=NCCC1)N | C4H9N3
product | (2S)-2-Benzenesulfonylamino-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)OCCCC(NC=1NCCCN1)=O)NS(=O)(=O)C1=CC=CC=C1)=O | C27H36N4O6S
